US09079919B2
(2′R,4R)-6′-(5-Chloropyridin-3-yl)-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-2-amine formate
In a manner analogous to that described in Example 19, the cross coupling reaction of (2′R,4R)-6′-bromo-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-2-amine (intermediate B6.7) with 5-chloropyridin-3-ylboronic acid and chromatography on preparative HPLC yielded the title compound (66% yield) as an off-white, amorphous material. MS (ISP): m/z=436 [M+H]+ and 438 [M+2+H]+.

reactant | (2′R,4R)-6′-bromo-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-2-amine | BrC=1C=C2[C@@]3(C[C@]4(COCCC4)OC2=CC1)N=C(OCC3(F)F)N | C16H17BrF2N2O3
reactant | 5-chloropyridin-3-ylboronic acid | ClC=1C=C(C=NC1)B(O)O | C5H5BClNO2
product | (2′R,4R)-6′-(5-Chloropyridin-3-yl)-5,5-difluoro-5,5″,6,6″-tetrahydro-4″H-dispiro[1,3-oxazine-4,4′-chromene-2′,3″-pyran]-2-amine formate | 66% yield | C(=O)O.ClC=1C=C(C=NC1)C=1C=C2[C@@]3(C[C@]4(COCCC4)OC2=CC1)N=C(OCC3(F)F)N | InChI=1S/C21H20ClF2N3O3.CH2O2/c22-15-6-14(8-26-9-15)13-2-3-17-16(7-13)20(21(23,24)12-29-18(25)27-20)10-19(30-17)4-1-5-28-11-19;2-1-3/h2-3,6-9H,1,4-5,10-12H2,(H2,25,27);1H,(H,2,3)/t19-,20-;/m1./s1
